US05618814
2,8-dichloro-4-(1,2,3,4-tetrahydro-isoquinolin-2-yl)-pyrimido [5,4-d]pyrimidine
2,8-dichloro-4-piperidino-pyrimido [5,4-d]-pyrimidine Rf value: 0.66 (silica gel; cyclohexane/ethyl acetate=2:1)

reactant | 2,8-dichloro-4-piperidino-pyrimido [5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)Cl)N2CCCCC2 | C11H11Cl2N5
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | 2,8-dichloro-4-(1,2,3,4-tetrahydro-isoquinolin-2-yl)-pyrimido [5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)Cl)N2CC1=CC=CC=C1CC2 | C15H11Cl2N5
